Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Zithromax
 
Attending: ___
 
Chief Complaint:
Fever and hypotension
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old history of COPD not on home O2, OSA, schizophrenia, 
hypertension, hyperlipidemia, who was admitted from 
___ after being diagnosed with ESBL, who presents 
from ___ nursing facility after experiencing fever and 
hypotension.  
 During prior hospitalization, patient was started on 
piperacillin-tazobactam for ESBL but was subsequently narrowed 
to TMP-SMX when sensitivities returned. During hospitalization 
foley catheter was exchanged.  
 At ___ nursing facility, patient had a fever to ___ with 
SBP between ___ leading to referral to ___ ED.  
 In the ED, initial vitals: 98.2, 98, 98/44, 18, 94% on 2L.  
 - Labs notable for: WBC 20.3 (4.6 at last discharge), H/H 
11.5/38.0, platelets 307. Chemsitry panel was unremarkable. 
Lactate 2.0. FluA/FluB negative. UA showed 46 RBC, 3 WBC, few 
bacteria.  
 - Imaging notable for: patchy opacity in the left base 
concerning for infection or aspiration with small left pleural 
effusion.  
 - Pt given: ceftriaxone 1 gram IV x 1, 2L normal saline, 
acetaminophen 650 mg x 1, levofloxacin 750 mg IV x 1, vancomycin 
1000 mg IV x 1.  
 On arrival to the floor, pt reports that he has had significant 
diarrhea since starting the antibiotics. He has had abdominal 
pain. Acknowledges fever today but denies any cough, chest pain, 
chest pressure, chest palpitations.  
 
Past Medical History:
COPD not on home O2
sleep apnea
schizophrenia
hypertension
GERD
anxiety
depression
BPH
obesity
hyperlipidemia
hypothyroidism
 
Social History:
___
Family History:
Unknown per patient
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
==================================
Vitals: 100.4, 107/63, 75, 18, 95% on 1L.  
GENERAL: AOx2, NAD
HEENT: Normocephalic, atraumatic.  EOMI.  MMM
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops.  
LUNGS: CTAB, no wheezes, ronchi, rales, crackles
ABDOMEN:  PEG in place, hyperactive bowel sounds, slightly 
distended, no rebound or guarding, mild diffuse tenderness to 
palpation
EXTREMITIES: No clubbing, cyanosis or edema. Strength ___ in 
upper extremity. Proximal lower extremity strength ___, distal 
lower extremity strength ___. 
SKIN: No new rashes, lesions or bruises  

PHYSICAL EXAMINATION ON DISCHARGE:
==================================
VITALS: 98.3 ___ 92-96RA. BM: 2 small BM 
(loose/watery)
GENERAL: Laying in bed, making great eye contact, able to 
initiate and participate in conversation 
HEENT: Dry mucous membranes. No OP lesions  
Lungs: CTAB, no R/R/W
CV: RRR, S1 and S2 present, no M/R/G
Abdomen: soft, BS+, minimal tenderness, PEG tube in place with 
no drainage.  
Extremities: No lower extremity edema appreciated.  
Neurological: Appears to have left facial droop but really 
prefers to keep his tongue there, left hand squeeze weaker than 
right hand squeeze, ___ strength in upper extremities 
otherwise  

 
Pertinent Results:
Admission labs:
===========
___ 12:10PM BLOOD WBC-20.3*# RBC-3.84* Hgb-11.5* Hct-38.0* 
MCV-99* MCH-29.9 MCHC-30.3* RDW-16.7* RDWSD-60.0* Plt ___
___ 12:10PM BLOOD Neuts-80.0* Lymphs-11.6* Monos-7.0 
Eos-0.0* Baso-0.5 NRBC-0.1* Im ___ AbsNeut-16.23*# 
AbsLymp-2.36 AbsMono-1.42* AbsEos-0.00* AbsBaso-0.10*
___ 12:10PM BLOOD Plt ___
___ 06:18AM BLOOD ___ PTT-30.5 ___
___ 12:10PM BLOOD Glucose-103* UreaN-49* Creat-0.7 Na-141 
K-4.7 Cl-99 HCO3-23 AnGap-24*
___ 06:18AM BLOOD ALT-18 AST-12 LD(LDH)-162 AlkPhos-64 
TotBili-0.3
___ 12:10PM BLOOD CK-MB-<1 cTropnT-0.09*
___ 06:10PM BLOOD CK-MB-<1 cTropnT-0.02*
___ 06:18AM BLOOD CK-MB-<1 cTropnT-0.04*
___ 06:18AM BLOOD Calcium-7.9* Phos-2.3* Mg-2.3
___ 07:55AM BLOOD Hapto-420*
___ 06:55AM BLOOD Triglyc-152* HDL-13 CHOL/HD-7.6 
LDLcalc-56
___ 07:10AM BLOOD TSH-2.4
___ 07:10AM BLOOD Free T4-1.3
___ 08:22AM BLOOD Cortsol-12.5
___ 05:31PM BLOOD ___ pO2-140* pCO2-60* pH-7.37 
calTCO2-36* Base XS-7
___ 01:01AM BLOOD ___ pO2-215* pCO2-59* pH-7.40 
calTCO2-38* Base XS-9 Comment-GREEN TOP

MICROBIOLOGY:
=============
MRSA screen positive
Negative blood cultures throughout admission
Negative urine culture throughout admission
Negative c.diff

IMAGING:
==========
___ ECHO
FOCUSED STUDY/LIMITED VIEWS: Overall left ventricular systolic 
function is normal (LVEF>55%). The right ventricular cavity is 
mildly dilated with normal free wall contractility. The aortic 
valve leaflets (3) are mildly thickened. No masses or 
vegetations are seen on the aortic valve. No aortic 
regurgitation is seen. The mitral valve leaflets are 
structurally normal. There is no mitral valve prolapse. No mass 
or vegetation is seen on the mitral valve. Physiologic mitral 
regurgitation is seen (within normal limits). 

Compared with the prior study (images reviewed) of ___, 
the comparable findings are similar. 

___ CXR
FINDINGS: Increasing right basilar opacity, may represent 
developing pneumonia.  Stable retrocardiac consolidation.  There 
may be small right pleural effusion.  No pneumothorax.  Normal 
heart size.  No edema.
IMPRESSION: Increasing right basilar opacity, may represent 
pneumonia.

___ CT ABD + PELVIS
IMPRESSION:
1. Improving left and worsening right basilar opacities 
worrisome for
aspiration pneumonia.
2. Persistent bronchial wall thickening and mucous plugging at 
the lung bases.
Background of moderate to severe centrilobular emphysema.
3. Mild mediastinal and hilar lymphadenopathy is unchanged, 
likely reactive.
4. Interval resolution of previous upper mediastinal mass, most 
compatible
with resolved hematoma.
5. No acute abnormality in the abdomen or pelvis. Sigmoid 
diverticulosis
without diverticulitis.

___ CT CHEST
IMPRESSION:
 1. Improving left and worsening right basilar opacities 
worrisome for
aspiration pneumonia.
2. Persistent bronchial wall thickening and mucous plugging at 
the lung bases.
Background of moderate to severe centrilobular emphysema.
3. Mild mediastinal and hilar lymphadenopathy is unchanged, 
likely reactive.
4. Interval resolution of previous upper mediastinal mass, most 
compatible
with resolved hematoma.
5. No acute abnormality in the abdomen or pelvis. Sigmoid 
diverticulosis
without diverticulitis.

___ CHEST X RAY
IMPRESSION: 
Moderate cardiomegaly and tortuous aorta are stable.  Mild 
vascular congestion has improved.  Bilateral pleural effusions 
associated atelectasis have minimally improved.  Right IJ 
catheter tip is in the lower SVC.  There is no evident 
pneumothorax

DISCHARGE LABS
===============
___ 05:45AM BLOOD WBC-9.8 RBC-2.78* Hgb-8.3* Hct-26.7* 
MCV-96 MCH-29.9 MCHC-31.1* RDW-16.9* RDWSD-58.8* Plt ___
___ 05:45AM BLOOD Neuts-73* Bands-3 Lymphs-12* Monos-8 
Eos-1 Baso-0 Atyps-1* Metas-1* Myelos-1* AbsNeut-7.45* 
AbsLymp-1.27 AbsMono-0.78 AbsEos-0.10 AbsBaso-0.00*
___ 05:45AM BLOOD Hypochr-1+ Anisocy-2+ Poiklo-NORMAL 
Macrocy-1+ Microcy-1+ Polychr-1+
___ 05:45AM BLOOD Glucose-73 UreaN-11 Creat-0.3* Na-142 
K-4.0 Cl-102 HCO3-28 AnGap-16
___ 05:45AM BLOOD Calcium-9.3 Phos-5.0* Mg-1.___ year old history of COPD not on home O2, OSA, schizophrenia, 
hypertension, hyperlipidemia, who was admitted from 
___ after being diagnosed with ESBL, who presents 
from ___ facility after experiencing fever and 
hypotension, treated for HCAP. Course had been complicated by 
worsening AMS and increased oxygen requirement, now resolved.  

# HCAP: Patient initially presented with high fevers and 
hypotension. Investigation for infectious source revealed 
consolidation on CXR consistent with pneumonia. Treated with 
vancomycin and zosyn, but he still continued to have fevers, 
persistent leukocytosis and worsening oxygen requirement, 
needing a non-rebreather at one point. Tobramycin and 
doxycycline were added on ___ and ID was consulted. Patient 
improved significantly after addition of tobramycin/doxycycline, 
with mental status back to baseline. Tobramycin and doxycycline 
were discontinued on ___, given that ID felt that the 
percentage of GNRs not covered by zosyn is small, and he may 
simply require a longer duration of treatment with zosyn (i.e. 
he has not necessarily failed zosyn treatment). Additionally it 
was thought he may have been occasionally aspirating causing 
fevers and hypoxia. Patient has continued to do well with 
resolution of his leukocytosis and his last documented fever 
occurred on ___. Given that his MRSA screen returned 
positive, he will continue on Zosyn and Vancomycin through 
___. 

# Toxic metabolic encephalopathy: Etiology appears to be 
secondary to infection as patient's mental status improved on 
antibitoics. CTA negative and EEG negative as well.

# Anemia: No evidence of bleeding and patient has remained 
hemodynamically stable with regards to his anemia. Anemia likely 
secondary to bone marrow suppression in the setting of sepsis. 
He did require one unit of RBC transfusion on ___. 

# Abdominal pain and diarrhea. Patient with history of chronic 
abdominal pain and diarrhea. He has been C.diff negative. 
Symptoms improved on loperamide as recommended by his PCP. 
Thyroid function tests were also within normal limits. 

# Schizophrenia/Depression: Paroxetine was discontinued. 
Valproic acid dosing was decreased FROM 750 mg BID to ___ mg 
BID. Risperidone 1 mg BID was continued.

# Essential Hypertension: Home amlodipine and clonidine were 
initially held in the setting of hypotension on presentation. 
Home amlodipine was restarted prior to discharge.

# Goals of care. Guardian ___ wishes to make the patient CMO as 
it is inevitable he will continue to aspirate and have PNA with 
MDR bacteria. ___ at this time does not have the authority to 
do so and he is working on getting authorization.  

# Urinary tract infection. Diagnosed in last hospitalization 
with end date of therapy being ___. Treatment completed and 
covered with HCAP treatment as above.

CHRONIC AND STABLE ISSUES
# COPD: Continue albuterol inhaler 1 puff Q6H:PRN, 
iptraropium-albuterol neb Q4H:PRN, and fluticasone-salmeterol 
250/50 1 IH BID.  

# CAD prevention: Continue Aspirin 81 mg PO daily
  
# HLD: Continue atorvastatin 20mg po qHS  

# Hypothyroidism: Continue levothyroxine 25 mcg daily.  

# Dysphagia: During prior admission, patient had been made NPO 
given aspiration risk. He was started on tube feeds at that time 
with a plan to consider EGD in the future. Currently has a PEG 
tube in place.  
 
# Mediastinal mass: CT chest on ___ showed interval 
resolution of previous upper mediastinal mass, most compatible 
with resolved hematoma. 

TRANSITIONAL ISSUES FROM PRIOR HOSPITALIZATION 
================================================= 
[ ] Patient's home amlodipine was restarted prior to discharge 
on ___. Held off on restarting his clonidine patch, consider 
restarting as BP allows for goal BP <140
[ ] Follow up with PCP for thyroid ultrasound in ___ to 
ensure resolution. Para-thyroid mass likely hematoma from spinal 
surgery as it was not there 1 mo prior to surgery (___). No 
biopsy. 
[ ] Consider mobility with wheelchair to improve quality of life 
 
[ ] Follow up on etiology of patient's anemia, patient needs 
further workup  
- Per facility, patient has foley exchanged every month. Given 
diagnosis of UTI, foley exchanged in hospital on ___  
- If abdominal symptoms/diarrhea recurs, please have patient 
follow up with a gastroenterologist. Patient has been treated 
with Loperamide and Metamucil  
[ ] Monitor for somnolence, and consider CPAP at night for sleep 
apnea
- Psychiatry made the following changes to the medications: 
Stopped paroxetine, reduced dose of valproic acid from 750 mg 
BID to ___ mg BID, and kept risperidone unchanged
[ ] Monitor for depression and consider referral to psychiatry
[ ] Re-address code status: pt is currently full-code but 
guardian is trying to get ability to change code status as he 
believes this is not in the patient's best interest

NEW MEDICATION:
Imodium
Metamucil
Vancomycin (through ___
Zosyn (through ___

CHANGED MEDICATION:
Decreased dose of valproic acid from 750 mg BID to ___ mg BID

STOPPED MEDICATION:
Paroxetine 20 mg
Clonidine patch discontinued

- Code: Full 
- Contact: ___ ___ ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
2. Acetylcysteine 20% ___ mL NEB Q6H:PRN mucus  
3. Albuterol Inhaler 1 PUFF IH Q6H:PRN SOB 
4. Aspirin 81 mg PO/NG DAILY 
5. Atorvastatin 20 mg PO/NG QPM 
6. Bisacodyl ___AILY:PRN constipation 
7. Clonidine Patch 0.2 mg/24 hr 1 PTCH TD QTUES 
8. Fleet Enema ___AILY:PRN Constipation 
9. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
10. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
11. FoLIC Acid 1 mg PO/NG DAILY 
12. GuaiFENesin ___ mL PO/NG Q4H secretions requiring 
suctioning 
13. Heparin 5000 UNIT SC BID 
14. Ipratropium-Albuterol Neb 1 NEB NEB Q4H:PRN dyspnea 
15. Levothyroxine Sodium 25 mcg PO/NG DAILY 
16. Ondansetron ODT 4 mg PO Q8H:PRN Nausea 
17. PARoxetine 20 mg PO/NG DAILY 
18. RisperiDONE 2 mg NG BID 
19. Simethicone 80 mg PO/NG QID:PRN indigestion 
20. Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush 
21. valproic acid (as sodium salt) 250mg/5mL 15mL PEG tube BID 
22. Acidophilus (Lactobacillus acidophilus) 1 tab oral DAILY 
23. amLODIPine 10 mg PO DAILY 
24. Ferrous Sulfate (Liquid) 300 mg PO/NG DAILY 
25. Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation BID 
26. Vitamin D ___ UNIT PO ONCE PER MONTH 
27. Sulfameth/Trimethoprim DS 1 TAB PO BID 

 
Discharge Medications:
1.  LOPERamide 4 mg PO QID diarrhea 
RX *loperamide [Anti-Diarrhea] 2 mg 2 tablet by mouth four times 
a day Disp #*112 Tablet Refills:*2 
2.  Piperacillin-Tazobactam 4.5 g IV Q8H Duration: 4 Days 
RX *piperacillin-tazobactam 4.5 gram 1 vial IV every eight (8) 
hours Disp #*13 Vial Refills:*0 
3.  Psyllium Powder 1 PKT PO BID 
RX *psyllium husk (aspartame) [Metamucil MultiHealth Fiber] 3.4 
gram/5.8 gram 1 powder(s) by mouth twice a day Refills:*0 
4.  Vancomycin 1250 mg IV Q 12H 
RX *vancomycin 750 mg 1 vial IV every twelve (12) hours Disp #*9 
Vial Refills:*0
RX *vancomycin 500 mg 1 vial IV every twelve (12) hours Disp #*9 
Vial Refills:*0 
5.  valproic acid (as sodium salt) 500 mg PO BID 
RX *valproic acid (as sodium salt) 500 mg/10 mL (10 mL) 10 ml by 
mouth twice a day Disp #*600 Milliliter Milliliter Refills:*2 
6.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
7.  Acetylcysteine 20% ___ mL NEB Q6H:PRN mucus   
8.  Acidophilus (Lactobacillus acidophilus) 1 tab oral DAILY  
9.  Albuterol Inhaler 1 PUFF IH Q6H:PRN SOB  
10.  amLODIPine 10 mg PO DAILY  
11.  Aspirin 81 mg PO DAILY  
12.  Atorvastatin 20 mg PO QPM  
13.  Bisacodyl ___AILY:PRN constipation  
14.  Ferrous Sulfate (Liquid) 300 mg PO DAILY  
15.  Fleet Enema ___AILY:PRN Constipation  
16.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
17.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
18.  FoLIC Acid 1 mg PO DAILY  
19.  GuaiFENesin ___ mL PO Q4H secretions requiring suctioning  

20.  Heparin 5000 UNIT SC BID  
21.  Ipratropium-Albuterol Neb 1 NEB NEB Q4H:PRN dyspnea  
22.  Levothyroxine Sodium 25 mcg PO DAILY  
23.  Ondansetron ODT 4 mg PO Q8H:PRN Nausea  
24.  RisperiDONE 2 mg PO BID  
25.  Simethicone 80 mg PO QID:PRN indigestion  
26.  Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush  
27.  Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation BID  
28.  Vitamin D ___ UNIT PO ONCE PER MONTH  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
PRIMARTY DIAGNOSIS:
Hospital acquired pneumonia

SECONDARY DIAGNOSES:
Depression
Chronic diarrhea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital because you were experiencing fever and 
low blood pressure. You were found to have a pneumonia.

What happened to you during your hospital stay?
- We treated the pneumonia with antibiotics through the veins 
and you significantly improved
- You were found to be very somnolent during your hospital stay; 
head imaging was negative for any head bleed and your somnolence 
resolved without any intervention
- We consulted psychiatry to help us with the management of your 
depression, so we made some changes to your medications
- You were also experiencing severe diarrhea; we ruled out 
infectious causes and contacted your outpatient 
gastroenterologist who confirmed that this is a chronic issue
- For the diarrhea, we made changes to your tube feeds and 
started you on an anti-diarrhea medication called Imodium. You 
have also been started on Metamucil to bulk up your stools.

What should you do when you leave the hospital?
- You will go back to a facility. Make sure to take all your 
medications as prescribed and follow up with your doctors as 
___

We wish you all the best,
Your ___ team
 
Followup Instructions:
___